US04235914
A mixture of 18.75 g of γ-chloro-2-hydroxy-4-fluorobutyrophenone, 5.25 g of sodium hydrogen carbonate, 15 g of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 0.02 g of potassium iodide and 2 liters of toluene was refluxed for 80 hours. The resulting mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residual solid was washed with diethyl ether to give γ-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decan-8-yl)-2-hydroxy-4-fluorobutyrophenone, M.P. 215°-220° C.

reactant | γ-chloro-2-hydroxy-4-fluorobutyrophenone | 18.75 g | ClC(CC(C(=O)C1=CC=CC=C1)O)F | C10H10ClFO2
reactant | sodium hydrogen carbonate | 5.25 g | C(O)([O-])=O.[Na+]
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 15 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | potassium iodide | 0.02 g | [I-].[K+]
solvent | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
product | γ-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]decan-8-yl)-2-hydroxy-4-fluorobutyrophenone | O=C1NCN(C12CCN(CC2)C(CC(C(=O)C2=CC=CC=C2)O)F)C2=CC=CC=C2 | C23H26FN3O3
